US07098212B2
2-(4-Chloro-2-hydroxy-phenoxy)-1-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-ethanone
To a solution of 7-chloro-benzo[1,4]dioxin-2-one (0.48 g, 2.6 mmol) in toluene (5 mL) was added 1-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazine (0.59 g, 2.6 mmol). The resulting mixture was heated to 95° C. overnight. The reaction was cooled to ambient temperature and concentrated in vacuo. Chromatography on silica gel gave the title compound (0.67 g).

reactant | 7-chloro-benzo[1,4]dioxin-2-one | 2.6 mmol, 0.48 g | ClC=1C=CC2=C(OC(CO2)=O)C1 | C8H5ClO3
reactant | 1-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazine | 2.6 mmol, 0.59 g | FC1=CC=C(CN2[C@@H](CN[C@H](C2)C)C)C=C1 | C13H19FN2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-Chloro-2-hydroxy-phenoxy)-1-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-ethanone | 0.67 g | ClC1=CC(=C(OCC(=O)N2[C@@H](CN([C@H](C2)C)CC2=CC=C(C=C2)F)C)C=C1)O | C21H24ClFN2O3
